### PR TITLE
[Merged by Bors] - feat: define the Cartan matrix of a root pairing relative to a base

### PR DESCRIPTION
**Pull request by ocfnash**
Also adding `RootPairing.IsValuedIn` (together with some API) since this enables us to define an integer-valued Cartan matrix for crystallographic pairings.

More importantly, `RootPairing.IsValuedIn` is also the missing piece to generalise (and unify) some results which currently require ordered scalars such as [RootPairing.coxeterWeight_mem_set_of_isCrystallographic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.html#RootPairing.coxeterWeight_mem_set_of_isCrystallographic) but this work is left for a future PR (mostly to simplify review).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 1]
```diff
@@ -547,11 +575,17 @@ def coxeterWeight : R := pairing P i j * pairing P j i
...
-  exact ⟨a * b, by simp [coxeterWeight, ha, hb]⟩
+/-- A variant of `RootPairing.coxeterWeight` for root pairings which are valued in a smaller set of
+coefficients.
+
+Note that it is uniquely-defined only when the map `S → R` is injective, i.e., when we have
+`[NoZeroSMulDivisors S R]`. -/
+def coxeterWeightIn (S : Type*) [CommRing S] [Algebra S R] [P.IsValuedIn S] (i j : ι) : S :=
+  P.pairingIn S i j * P.pairingIn S j i
+
+@[simp] lemma algebraMap_coxeterWeightIn (S : Type*) [CommRing S] [Algebra S R] [P.IsValuedIn S] :
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:586]: It doesn't matter too much, but I think it is nice if `i j` come after `S` in this lemma as well.

File: Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean [hunk 2]
```diff
@@ -268,10 +268,11 @@ instance instIsRootPositiveRootForm : IsRootPositive P P.RootForm where
 lemma coxeterWeight_mem_set_of_isCrystallographic (i j : ι) [P.IsCrystallographic] :
     P.coxeterWeight i j ∈ ({0, 1, 2, 3, 4} : Set R) := by
   obtain ⟨n, hcn⟩ : ∃ n : ℕ, P.coxeterWeight i j = n := by
-    obtain ⟨z, hz⟩ := P.exists_int_eq_coxeterWeight i j
-    have hz₀ : 0 ≤ z := by simpa [hz] using P.coxeterWeight_non_neg P.RootForm i j
-    obtain ⟨n, rfl⟩ := Int.eq_ofNat_of_zero_le hz₀
-    exact ⟨n, by simp [hz]⟩
+    have : 0 ≤ P.coxeterWeightIn ℤ i j := by
+      simpa only [← Int.cast_nonneg (R := R), (show Int.cast = algebraMap ℤ R from rfl),
+        P.algebraMap_coxeterWeightIn] using P.coxeterWeight_non_neg P.RootForm i j
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Finite/CanonicalBilinear.lean:273]:
```suggestion
            simpa [← P.algebraMap_coxeterWeightIn _ _ ℤ] using P.coxeterWeight_non_neg P.RootForm i j
```

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 3]
```diff
@@ -380,29 +380,57 @@ lemma pairing_reflection_perm_self_right (i j : ι) :
...
+lemma algebraMap_pairingIn [P.IsValuedIn S] (i j : ι) :
+    algebraMap S R (P.pairingIn S i j) = P.pairing i j :=
+  (P.isValuedIn_iff.mp inferInstance i j).choose_spec
+
+lemma IsValuedIn.trans (T : Type*) [CommRing T] [Algebra T S] [Algebra T R] [IsScalarTower T S R]
+    [P.IsValuedIn T] :
+    P.IsValuedIn S where
+  pairing_mem_range_algebraMap i j := by
+    use algebraMap T S (P.pairingIn T i j)
+    simp [← RingHom.comp_apply, ← IsScalarTower.algebraMap_eq T S R]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:431]: What do you think of the following slight rephrasing?
```suggestion
@[mk_iff]
class IsValuedIn (S : Type*) [CommRing S] [Algebra S R] : Prop where
  exists_value : ∀ i j, ∃ s, algebraMap S R s = P.pairing i j

protected alias exists_value := IsValuedIn.exists_value

/-- A root pairing is said to be crystallographic if the pairing between a root and coroot is
always an integer. -/
abbrev IsCrystallographic := P.IsValuedIn ℤ

section IsValuedIn

instance : P.IsValuedIn R where
  exists_value i j := by simp

variable (S : Type*) [CommRing S] [Algebra S R]

variable {S} in
lemma isValuedIn_iff_mem_range :
    P.IsValuedIn S ↔ ∀ i j, P.pairing i j ∈ range (algebraMap S R) := by
  simp only [isValuedIn_iff, mem_range]

instance : P.IsValuedIn R where
  exists_value := by simp

instance [P.IsValuedIn S] : P.flip.IsValuedIn S := by
  rw [isValuedIn_iff, forall_comm]
  exact P.exists_value

/-- A variant of `RootPairing.pairing` for root pairings which are valued in a smaller set of
coefficients.

Note that it is uniquely-defined only when the map `S → R` is injective, i.e., when we have
`[NoZeroSMulDivisors S R]`. -/
def pairingIn [P.IsValuedIn S] (i j : ι) : S :=
  (P.exists_value i j).choose

@[simp]
lemma algebraMap_pairingIn [P.IsValuedIn S] (i j : ι) :
    algebraMap S R (P.pairingIn S i j) = P.pairing i j :=
  (P.exists_value i j).choose_spec

lemma IsValuedIn.trans (T : Type*) [CommRing T] [Algebra T S] [Algebra T R] [IsScalarTower T S R]
    [P.IsValuedIn T] :
    P.IsValuedIn S where
  exists_value i j := by
    use algebraMap T S (P.pairingIn T i j)
    simp [← RingHom.comp_apply, ← IsScalarTower.algebraMap_eq T S R]
```

Comment (jcommelin) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:431]: I'm mainly claiming that `exists_value` should get a more prominent place than the `mem_range` variant.

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean [hunk 4]
```diff
@@ -380,29 +380,57 @@ lemma pairing_reflection_perm_self_right (i j : ι) :
     sub_add_cancel_left, ← toLin_toPerfectPairing, map_neg, toLin_toPerfectPairing,
     root_coroot_eq_pairing]
 
+/-- If `R` is an `S`-algebra, a root pairing over `R` is said to be valued in `S` if the pairing
+between a root and coroot always belongs to `S`.
+
+Of particular interest is the case `S = ℤ`. See `RootPairing.IsCrystallographic`. -/
+class IsValuedIn (S : Type*) [CommRing S] [Algebra S R] : Prop where
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Defs.lean:387]:
```suggestion
class IsValuedIn (S : Type*) [CommSemiRing S] [Algebra S R] : Prop where
```
This will allow `S = Nat`, which will be nice when stating/proving
```
P.coxeterWeightIn Nat i j ∈ ({0, 1, 2, 3, 4} : Set Nat)
```

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:431]: Thanks, yes I prefer this!

Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:431]: Huh GitHub cannot apply this as a suggestion:
image

Applying by hand.

File: Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean [hunk 5]
```diff
@@ -0,0 +1,53 @@
...
+
+variable (S : Type*) [CommRing S] [Algebra S R]
+  {P : RootPairing ι R M N} [P.IsValuedIn S] (b : P.Base)
+
+/-- The Cartan matrix of a root pairing, taking values in `S`, with respect to a base `b`.
+
+See also `RootPairing.Base.cartanMatrix`. -/
+def cartanMatrixIn :
+    Matrix b.support b.support S :=
+  fun i j ↦ P.pairingIn S i j
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean:35]: Thanks, definitely.

File: Mathlib/LinearAlgebra/RootSystem/Defs.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:384]: Agreed; this might also be useful in a potential (though not currently planned) refactor of `RootPairing.Base` (which I now I think is "correct" only for crystallographic pairings).

Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean]: On second thought, I don't think this will ever be useful: the pairing cannot avoid negative values (though the Coxeter weights can).

Comment (jcommelin) [reply Mathlib/LinearAlgebra/RootSystem/Defs.lean:388]: Aah of course, silly me :facepalm:

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
